US08492378B2
4-[[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]carbonyl]morpholine
To a suspension of 5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-carboxylic acid (97.7 mg, 0.400 mmol) and N,N-dimethylformamide (1 drop) in tetrahydrofuran (5 mL) was added oxalyl chloride (0.0698 mL, 0.800 mmol) at room temperature, and the resulting mixture was stirred for 15 min. The reaction mixture was added dropwise to a mixture of morpholine (0.105 mL, 1.20 mmol) and saturated aqueous sodium hydrogen carbonate solution (5 mL) at room temperature, and the resulting mixture was stirred for 1 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate), and recrystallized from methanol/water to give the title compound (33.8 mg, yield 27%) as colorless crystals.

reactant | 5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-carboxylic acid | 0.400 mmol, 97.7 mg | CC1=NN=C(O1)C=1C=CC2=C(C(=CO2)C(=O)O)C1 | C12H8N2O4
reactant | oxalyl chloride | 0.800 mmol, 0.0698 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | morpholine | 1.20 mmol, 0.105 mL | N1CCOCC1 | C4H9NO
reactant | sodium hydrogen carbonate | 5 mL | C(O)([O-])=O.[Na+]
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]carbonyl]morpholine | 33.8 mg, yield 27% | CC1=NN=C(O1)C=1C=CC2=C(C(=CO2)C(=O)N2CCOCC2)C1 | C16H15N3O4
